US05663162
a) Ethyl 2-(tert-butoxycarbonylamino)methyl-4-methylthiazole-5-carboxylate
To a solution of 5.02 g of (tert-butoxycarbonylamino)acetothioamide in 75 ml of ethanol were added 3.92 ml of ethyl 2-chloroacetoacetate and 2.75 g of calcium carbonate, and the mixture was stirred at 50° C. for 6 hours. The reaction solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography, eluting with a 5:1 mixture of toluene and ethyl acetate to give 5.65 g (yield 71%) of the title compound.

reactant | (tert-butoxycarbonylamino)acetothioamide | 5.02 g | C(C)(C)(C)OC(=O)NCC(N)=S | C7H14N2O2S
reactant | ethyl 2-chloroacetoacetate | 3.92 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | calcium carbonate | 2.75 g | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | Ethyl 2-(tert-butoxycarbonylamino)methyl-4-methylthiazole-5-carboxylate | 5.65 g, yield 71% | C(C)(C)(C)OC(=O)NCC=1SC(=C(N1)C)C(=O)OCC | C13H20N2O4S
